US06194406B1
2-Methoxy-5-(1H-tetrazol-1-ylmethyl)benzoyl chloride
Combine 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoic acid (0.35 g, 1.5 mmol) and dichloromethane (25 mL). Add dropwise oxalyl chloride (0.21 mL, 2.35 mmol) followed by dimethylformamide (5 drops). After 4 hours, evaporate in vacuo and dry to give the title compound.

reactant | 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoic acid | 1.5 mmol, 0.35 g | COC1=C(C(=O)O)C=C(C=C1)CN1N=NN=C1 | C10H10N4O3
reactant | oxalyl chloride | 2.35 mmol, 0.21 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-Methoxy-5-(1H-tetrazol-1-ylmethyl)benzoyl chloride | COC1=C(C(=O)Cl)C=C(C=C1)CN1N=NN=C1 | C10H9ClN4O2
